US05610144
The operation is carried out in a fashion similar to that described in Example 2, but starting from 1.93 g of tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate and 3.61 g of benzyl 3-isocyanatobenzoate in 50 cm3 of tetrahydrofuran. After treatment, 1 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl)-5-phenylprolinate, melting at 75° C., is obtained.

reactant | tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate | 1.93 g | NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1 | C17H24N2O3
reactant | benzyl 3-isocyanatobenzoate | 3.61 g | N(=C=O)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C15H11NO3
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl)-5-phenylprolinate | 1 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C32H35N3O6
